US08466290B2
PdCl2(dppf).CH2Cl2 (184 mg, 0.23 mmol), tripotassium phosphate (624 mg, 4.51 mmol), and 4-nitrophenylboronic acid (958 mg, 4.51 mmol) were added to a 1,4-dioxane (5 mL)/DMF (1 mL) mixed solution of 2-chloro-4-quinolinecarboxylic acid methyl ester (500 mg, 2.26 mmol) obtained in Reference Example 3, and the mixture was heated with stirring overnight at 85° C. in an argon atmosphere. After the reaction solution was concentrated, to the residue, a saturated aqueous solution of sodium chloride and methylene chloride were added, and insoluble matter was filtered off through celite. After that, the residue was subjected to extraction with methylene chloride and dried over anhydrous sodium sulfate. The solvent was distilled off, and the obtained residue was purified by silica gel column chromatography to obtain 2-(4-nitrophenyl)-4-quinolinecarboxylic acid methyl ester (549 mg, 1.78 mmol).

reactant | CH2Cl2 | 0.23 mmol, 184 mg | C(Cl)Cl | CH2Cl2
reactant | tripotassium phosphate | 4.51 mmol, 624 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-nitrophenylboronic acid | 4.51 mmol, 958 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | 2-chloro-4-quinolinecarboxylic acid methyl ester | 2.26 mmol, 500 mg | COC(=O)C1=CC(=NC2=CC=CC=C12)Cl | C11H8ClNO2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4-nitrophenyl)-4-quinolinecarboxylic acid methyl ester | 1.78 mmol, 549 mg | COC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)[N+](=O)[O-] | C17H12N2O4
